US20010027196A1
To a stirred solution of 1.96 g (8.46 mmol) 2-amino-4-furan-2-yl-6-methylsulfanyl-pyrimidine-5-carbonitrile in 8 ml DMF was added dropwise a solution of 1.58 g (8.88 mmol) N-bromosuccinimide in 7 ml DMF and stirring continued at room temperature for 1 hour. The reaction mixture was then poured into 500 ml ice-water and the resulting precipitate collected by filtration and washed with water and then ether to afford 2.50 g (95%) 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile as a light brown crystalline solid. ES-MS m/e (%): 311 ([M{81Br}-H]−, 100), 309 ([M{79Br}-H]−, 95).

reactant | 2-amino-4-furan-2-yl-6-methylsulfanyl-pyrimidine-5-carbonitrile | 8.46 mmol, 1.96 g | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | N-bromosuccinimide | 8.88 mmol, 1.58 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 2.50 g, 95% | NC1=NC(=C(C(=N1)C=1OC(=CC1)Br)C#N)SC | C10H7BrN4OS
